datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([H:21])[H:22])[C:16](=[C:17]([H:24])[H:25])[H:23])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])[C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])[H:5],15.7737
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:19])([H:4])[H:5].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])([H:16])([H:17])[H:18],60.2496
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]=[S:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:17])([H:18])[H:19])=[S:16],43.0952
[H:5].[O:0]=[S:1]([O:2][H:4])[H:3]>>[H:3][H:5].[O:0]=[S:1][O:2][H:4],0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5])([H:14])[H:15])[O:6][O:7][H:16])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:8])([H:14])[H:15])[O:6][O:7][H:16])([H:9])[H:10],89.956
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:15])[H:7],9.414
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:12])([H:13])[H:14])[C:7](=[S:8])[H:15])([H:9])([H:10])[H:11]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:9])([H:10])[H:11])([C:6]([H:12])([H:13])[H:14])[C:7](=[S:8])[H:15],106.274
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:7])[H:8])([H:5])([H:6])[H:9],137.654
[C:0]([S:1][C:2]([O:3][O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][O:11][H:12]>>[C:0]([S:1][C:2]([O:3][O:4][H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][O:11],-19.36
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[S:10][C:9]([H:11])([H:12])[H:13])([H:3])([H:4])[H:14],169.034
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])=[C:5]([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]1([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21],81.337
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])[C:11]([H:24])([H:25])[H:26])[H:20])[H:19])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])=[C:8]([H:20])[C:9]1([C:10]([H:21])([H:22])[H:23])[C:11]([H:24])([H:25])[H:26])[H:12],90.3744
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],41.8818
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][O:10]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][O:10],187.90344
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([S:10][H:13])([H:11])[H:12]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([S:10][H:13])([H:11])[H:12],28.0328
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[H:7])([H:5])[H:6],-0.96232
[C:0]([C:1]([S:2][S:3][H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([S:2])([H:6])[H:7])([S:3][H:8])([H:4])[H:5],91.6296
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([C:7](=[S:8])[H:11])([H:9])[H:10],37.656
[C:1](#[C:2][C:3]([C:4]([H:5])[H:6])([c:7]1[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]1[H:19])[H:20])[H:21]>>[C:1](#[C:2][C:4]([C:3]([H:5])([c:7]1[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]1[H:19])[H:20])[H:6])[H:21],63.015224
[N:0]([H:1])[H:2].[O:3][O:4][H:5]>>[N:0]([H:1])([H:2])[O:3][O:4][H:5],0.0
